US08242104B2
methyl 2-(1-isopropyl-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-9-carboxylate 184
Alternatively, methyl 2-carbamoyl-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-9-carboxylate (370 mg, 1.3 mmol) in dimethoxyethane (3 mL) was treated with 1,1-dimethoxy-N,N-dimethylmethanamine (1 mL, 7.5 mmol) and heated to 90° C. for 0.5 h. LC/MS indicated major desired product. After cooling, the reaction was concentrated to give the crude acylamidine and then suspended in acetic acid (2.3 mL), treated with isopropylhydrazine hydrochloride (0.29 g, 2.5 mmol). The mixture was heated at 75° C. for 30 min., cooled to room temperature and concentrated. Purification by ISCO using 100% EtOAc gave 184 (0.32 g, 70% yield). 1H NMR (400 MHz, DMSO) δ 8.54 (d, J=8.4, 1H), 8.02 (s, 1H), 7.93 (s, 1H), 7.70 (dd, J=8.4, 1.7, 1H), 7.57 (d, J=1.7, 1H), 5.85 (dq, J=13.3, 6.6, 1H), 4.57 (q, J=6.0, 4H), 3.87 (s, 3H), 1.49 (d, J=6.6, 6H).

reactant | methyl 2-carbamoyl-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-9-carboxylate | 1.3 mmol, 370 mg | C(N)(=O)C=1N=C2N(CCOC3=C2C=CC(=C3)C(=O)OC)C1 | C14H13N3O4
reactant | 1,1-dimethoxy-N,N-dimethylmethanamine | 7.5 mmol, 1 mL | COC(N(C)C)OC | C5H13NO2
solvent | dimethoxyethane | 3 mL | C(OC)COC | C4H10O2
product | methyl 2-(1-isopropyl-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-9-carboxylate | C(C)(C)N1N=CN=C1C=1N=C2N(CCOC3=C2C=CC(=C3)C(=O)OC)C1 | C18H19N5O3
